Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / ibuprofen
 
Attending: ___.
 
Chief Complaint:
Fevers
 
Major Surgical or Invasive Procedure:
Placement of midline

 
History of Present Illness:
Dr. ___ is an ___ man with PMH significant for asthma
and elevated PSA s/p prostate biopsy on ___, who presents with
fevers, rigors, and chills. 

Patient reports that yesterday he underwent a prostate biopsy 
for
an elevated PSA.  He notes that he was taking Bactrim prior to
the procedure, and received gentamicin on the day of the
procedure.  Procedure was uncomplicated.  He woke up today
feeling fine, but around ___ AM had sudden onset of severe
chills, generally feeling unwell, which continued to progress
despite taking Tylenol. He is not sure if he had fevers, and
states that he does not remember the entire morning.   He began
to have some shortness of breath, and was breathing quickly. He
therefore presented to the ED.

Per Atrius records, patient was found to have a PSA of 8.8,
confirmed on recheck.  He was seen by urology on ___.  At
that time, he reported chronic nocturia but no other symptoms. 
Decision was made for patient to undergo biopsy.  Patient
completed a course of Bactrim prior to the procedure, and was
seen in ___ clinic on ___.  He received 80 mg of
gentamicin.  He was found to have a 1.3 cm nodule at the left
lateral base. A 12 core biopsy was taken which included multiple
cores through the abnormal area.

Regarding his asthma, patient states that recently it has been
much better, and he has not been taking his Symbicort regularly.
He did take it the two days leading up to the biopsy. 

For low back pain, patient notes that he was taking ibuprofen,
but was developing worsening shortness of breath. This has now
been listed as an allergy, and pain is otherwise stable. 

Regarding his thrombocytopenia, per review of records has been
chronic for several years. 

In the ED:

Initial vital signs were notable for: T 98.2, HR 132, BP 143/80,
RR 30, 100% RA 

Labs were notable for:

- CBC: WBC 10.3 (85%n), Hgb 15.5, Plt 145

- Lytes:

140 / 101 / 18  
------------- 122 
4.9 \ 15 \ 1.5  

- LFTs:  AST: 45 ALT: 29 AP: 88 Tbili: 1.1 Alb: 4.9 

- lactate 4.7 -> 2.0

- flu negative 
 
Studies performed include: a chest xray showing low lung volumes
with patchy opacities in lung bases, potentially atelectasis,
with infection or aspiration not excluded 

Consults: Urology was consulted, and recommended no urgent
surgical intervention, meropenem for broad spectrum coverage, 
and
imaging to rule out abscess if not responding to fluids or
antibiotics 

Patient was given:

___ 15:23 IV CefePIME 2 g  
___ 15:27 PO Acetaminophen 650 mg 
___ 16:15 IVF  NS 1000 mL   
___ 16:15 IV Ondansetron 4 mg  
___ 16:28 IV MetroNIDAZOLE 500 mg
___ 17:10 IVF  NS 1000 mL   
___ 18:03 IVF  NS 1000 mL  
___ 20:15 IV Meropenem 500 mg 

Vitals on transfer: T 100.0, HR 114, BP 107/54, RR 24, 99% RA 

Upon arrival to the floor, he states that he generally is 
feeling
much better, and that his breathing is more comfortable. He is
not in any pain except for where he bruised his ribs playing
tennis. 

 
Past Medical History:
Asthma
Lower Back pain
Elevated PSA
 
Social History:
___
Family History:
Father died w/AD and diabetes complications at ___. On autopsy 
was
found to have two precancerous colon polyps.
Mother died at legal age, ___, chronological age stated by
relatives at ___, complications PD but had no known colon cancer

 
Physical Exam:
EXAM
VITALS: T 99.5, HR 106, BP 95/59, RR 16, 96% RA 
GENERAL: Alert and in no apparent distress, tired-appearing 
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart tachycardic and regular, no murmur, no S3, no S4.  No
JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly

Discharge Exam
98.4
___
Patient well appearing, NAD
Remainder of exam unchanged
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
Admission Labs
___ 03:00PM BLOOD WBC-10.3* RBC-5.00 Hgb-15.5 Hct-48.0 
MCV-96 MCH-31.0 MCHC-32.3 RDW-13.2 RDWSD-47.4* Plt ___
___ 03:00PM BLOOD Glucose-122* UreaN-18 Creat-1.5* Na-140 
K-4.9 Cl-101 HCO3-15* AnGap-24*
___ 03:08PM BLOOD Lactate-4.7*

___ Blood cultures 
 Blood Culture, Routine (Final ___: 
      ESCHERICHIA COLI.    FINAL SENSITIVITIES. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

   Aerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___. ___ ON ___ AT 
0250. 
      GRAM NEGATIVE ROD(S). 

   Anaerobic Bottle Gram Stain (Final ___:    GRAM 
NEGATIVE ROD(S). 

___ Blood cultures NGTD
___ C diff NEGATIVE

Discharge Labs
___ 05:57AM BLOOD WBC-5.0 RBC-4.70 Hgb-14.6 Hct-43.0 MCV-92 
MCH-31.1 MCHC-34.0 RDW-13.2 RDWSD-45.2 Plt Ct-88*
___ 05:57AM BLOOD Glucose-112* UreaN-20 Creat-1.2 Na-137 
K-4.3 Cl-102 HCO3-22 AnGap-___.   E coli sepsis after prostate biopsy:  Patient was 
hypotensive with elevated lactate and secondary ___ on 
admission.  He was initially treated with broad spectrum 
antibiotics including meropenem and cefepime.  He was volume 
resuscitated and his ___ resolved and his pressures returned to 
normal (SBP 100-110s) for this patient.  He initially had some 
nausea which resolved.
His admission blood cultures grew out E Coli that was resistant 
to bactrim and ciprofloxacin so he was discharged with 2 weeks 
of IV ceftriaxone and will followup with Infectious Diseases on 
the last day of his antibiotic course to determine if he will 
need any kind of extended oral antibiotic.

2.  Thrombocytopenia:  Platelets 88K on discharge; Asked patient 
to f/u with PCP to recheck

3.  Diarrhea:  Patient with loose stools on the day of d/c.  C 
diff negative, so c/w antibiotic associated Diarrhea.  Patient 
encouraged to increase consumption of yogurt.

Greater than ___ hour spent on care on day of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 

 
Discharge Medications:
1.  CefTRIAXone 2 gm IV Q 24H  
2.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1.  E Coli Sepsis
2.  Diarrhea

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dr ___: 
You were admitted with fevers after your prostate biopsy and 
were found to have E Coli sepsis that developed as a result of 
the biopsy.   You were seen by the urologists and the Infectious 
Disease doctors, and we all agree that your infection can be 
treated with at least two weeks of IV ceftriaxone.  You had a 
midline placed for this, and will take the antibiotics at home.  
You will see the infectious disease doctor (___) on the 
last day of antibiotics to determine if you need additional 
medication or if two weeks is sufficient.  

Your platelet count fell during this hospitalization, and I 
suspect that this is also due to sepsis, and that it will 
improve with treatment of your infection.  Please follow up with 
Dr ___ to have your platelet count rechecked.  

You are having some diarrhea, and this is likely antibiotic 
associated.   I have ordered a C diff test however, which is 
pending at the time of your discharge.  I will call you over the 
weekend if the test turns positive.  Please consume foods such 
as yogurt that have cultures so that healthy bacteria will 
repopulate your gut.  
 
Followup Instructions:
___